US05672601
N8 -acetyl-3,8-diazabicyclo[3.2.1]octane was reacted with equimolar amounts of cinnamyl chloride, in the presence of potassium carbonate in acetone under reflux, checking the reaction by thin layer chromatography (TLC). When the reaction was completed, the inorganic salt was filtered off and the filtrate evaporated to dryness. The residue was purified by chromatography (1:1 CHCl3 /Ethyl acetate). N8 -Acetyl-N3 -cinnamyl-3,8-diazabicyclo[3.2.1]octane was obtained, the elementary analysis being in accordance with the desired compound.

reactant | N8 -acetyl-3,8-diazabicyclo[3.2.1]octane | C(C)(=O)N1C2CNCC1CC2 | C8H14N2O
reactant | cinnamyl chloride | C(C=CC1=CC=CC=C1)Cl | C9H9Cl
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | CC(=O)C | C3H6O
product | N8 -Acetyl-N3 -cinnamyl-3,8-diazabicyclo[3.2.1]octane | C(C)(=O)N1C2CN(CC1CC2)CC=CC2=CC=CC=C2 | C17H22N2O
